US07186732B2
4-(3-Chloro-propoxy)-benzaldehyde
A suspension of 4-hydroxybenzaldehyde (40 g), 1-bromo-3-chloropropane (63 mL), and potassium carbonate (136 g) in acetone (920 mL) was heated to reflux for 16 h. The resulting mixture was filtered, and the filtrate was evaporated. Distillation of the residue (0.5 mm Hg, 220° C.) gave the title compound as a pale yellow oil that crystallized on standing (46 g).

reactant | 4-hydroxybenzaldehyde | 40 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-bromo-3-chloropropane | 63 mL | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 136 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 920 mL | CC(=O)C | C3H6O
product | 4-(3-Chloro-propoxy)-benzaldehyde | ClCCCOC1=CC=C(C=O)C=C1 | C10H11ClO2
